*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X6S(-55to105[deg])/1.00e+00[uF]/6.3[V]
* Murata P/N :GRM155C80J105KA12
* Property : C = 1.00e+00[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155C80J105KA12 Port1 Port2
C01 Port1 N01 5.34e-07
R01 Port1 N01 5.00e+08
L02 N01 N02 1.67e-10
R03 N02 N03 1.07e-02
C04 N03 N04 1.55e-05
R04 N03 N04 1.19e+02
C05 N04 N05 1.45e-05
R05 N04 N05 1.25e+01
C06 N05 N06 1.31e-05
R06 N05 N06 1.35e+00
C07 N06 N07 1.20e-05
R07 N06 N07 1.71e-01
C08 N07 N08 7.58e-06
R08 N07 N08 2.53e-02
L09 N08 N09 2.56e-11
R09 N08 N09 4.36e-01
L10 N09 N10 2.22e-11
R10 N09 N10 5.47e-02
L11 N10 N11 1.26e-10
R11 N10 N11 3.70e-02
C12 N11 N12 2.95e-06
L12 N11 N12 1.63e-11
R12 N11 N12 4.03e-03
C13 N12 N13 1.86e-06
L13 N12 N13 1.54e-11
R13 N12 N13 6.00e-03
C14 N13 Port2 2.96e-11
L14 N13 Port2 7.20e-12
R14 N13 Port2 1.09e+00
.ENDS GRM155C80J105KA12
