*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7T(-55to125[deg])/2.20e+00[uF]/10[V]
* Murata P/N :GRM155D71A225ME15
* Property : C = 2.20e+00[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155D71A225ME15 Port1 Port2
C01 Port1 N01 1.74e-06
R01 Port1 N01 2.27e+07
L02 N01 N02 1.23e-10
R03 N02 N03 5.69e-03
C04 N03 N04 5.59e-05
R04 N03 N04 7.20e+01
C05 N04 N05 7.53e-05
R05 N04 N05 5.96e+00
C06 N05 N06 6.53e-05
R06 N05 N06 9.53e-01
C07 N06 N07 6.55e-05
R07 N06 N07 1.25e-01
C08 N07 N08 5.63e-05
R08 N07 N08 2.27e-02
C09 N08 N09 5.90e-05
R09 N08 N09 5.86e-03
L10 N09 N10 2.50e-11
R10 N09 N10 1.26e-01
L11 N10 N11 1.46e-10
R11 N10 N11 2.09e-02
L12 N11 N12 2.74e-11
R12 N11 N12 1.78e-02
C13 N12 N13 9.79e-06
L13 N12 N13 1.84e-11
R13 N12 N13 3.40e-03
C14 N13 N14 2.37e-06
L14 N13 N14 3.78e-11
R14 N13 N14 5.43e-03
C15 N14 Port2 5.24e-12
L15 N14 Port2 5.16e-11
R15 N14 Port2 2.24e+01
.ENDS GRM155D71A225ME15
