*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X6T(-55to105[deg])/2.20e+00[uF]/2.5[V]
* Murata P/N :GRM152D80E225ME01
* Property : C = 2.20e+00[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM152D80E225ME01 Port1 Port2
C01 Port1 N01 1.75e-06
R01 Port1 N01 2.27e+07
L02 N01 N02 1.15e-10
R03 N02 N03 1.07e-02
C04 N03 N04 1.32e-04
R04 N03 N04 2.04e+01
C05 N04 N05 1.51e-04
R05 N04 N05 3.89e+00
C06 N05 N06 1.33e-04
R06 N05 N06 7.60e-01
C07 N06 N07 1.35e-04
R07 N06 N07 9.94e-02
C08 N07 N08 8.44e-05
R08 N07 N08 1.48e-02
L09 N08 N09 2.98e-11
R09 N08 N09 1.28e-01
L10 N09 N10 1.02e-10
R10 N09 N10 4.59e-02
C11 N10 N11 4.24e-07
L11 N10 N11 7.26e-11
R11 N10 N11 7.84e-03
C12 N11 Port2 3.40e-12
L12 N11 Port2 6.11e-11
R12 N11 Port2 1.29e+01
.ENDS GRM152D80E225ME01
