*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7T(-55to125[deg])/2.20e+00[uF]/6.3[V]
* Murata P/N :GRM155D70J225ME44
* Property : C = 2.20e+00[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155D70J225ME44 Port1 Port2
C01 Port1 N01 1.71e-06
R01 Port1 N01 2.27e+07
L02 N01 N02 1.57e-10
R03 N02 N03 6.35e-03
C04 N03 N04 5.69e-05
R04 N03 N04 2.20e+01
C05 N04 N05 6.86e-05
R05 N04 N05 2.06e+00
C06 N05 N06 6.71e-05
R06 N05 N06 3.04e-01
C07 N06 N07 5.96e-05
R07 N06 N07 4.83e-02
C08 N07 N08 4.32e-05
R08 N07 N08 1.07e-02
L09 N08 N09 2.90e-11
R09 N08 N09 1.50e-01
L10 N09 N10 1.47e-10
R10 N09 N10 2.38e-02
L11 N10 N11 1.96e-11
R11 N10 N11 2.30e-02
C12 N11 N12 7.98e-06
L12 N11 N12 2.47e-11
R12 N11 N12 3.42e-03
C13 N12 N13 4.06e-06
L13 N12 N13 2.59e-11
R13 N12 N13 4.99e-03
C14 N13 Port2 1.39e-11
L14 N13 Port2 1.99e-11
R14 N13 Port2 5.61e+00
.ENDS GRM155D70J225ME44
