*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X5R(-55to85[deg])/3.90e-02[uF]/10[V]
* Murata P/N :GRM155R61A393KA01
* Property : C = 3.90e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155R61A393KA01 Port1 Port2
C01 Port1 N01 3.87e-08
R01 Port1 N01 1.00e+10
L02 N01 N02 1.38e-10
R03 N02 N03 3.53e-02
C04 N03 N04 4.17e-06
R04 N03 N04 1.05e+03
C05 N04 N05 7.27e-06
R05 N04 N05 1.07e+02
C06 N05 N06 4.87e-06
R06 N05 N06 2.63e+01
C07 N06 N07 5.15e-06
R07 N06 N07 3.09e+00
C08 N07 N08 4.09e-06
R08 N07 N08 6.16e-01
C09 N08 N09 2.89e-06
R09 N08 N09 1.14e-01
C10 N09 N10 2.08e-06
R10 N09 N10 3.05e-02
L11 N10 N11 6.65e-11
R11 N10 N11 1.80e-01
C12 N11 N12 2.02e-08
L12 N11 N12 5.81e-11
R12 N11 N12 4.10e-02
C13 N12 Port2 2.45e-12
L13 N12 Port2 1.25e-10
R13 N12 Port2 2.31e+01
.ENDS GRM155R61A393KA01
