*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/4.70e-04[uF]/100[V]
* Murata P/N :GRM155R72A471KA01
* Property : C = 4.70e-04[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155R72A471KA01 Port1 Port2
C01 Port1 N01 4.77e-10
R01 Port1 N01 1.00e+10
L02 N01 N02 1.80e-10
R03 N02 N03 3.41e-01
C04 N03 N04 5.29e-08
R04 N03 N04 3.01e+04
C05 N04 N05 8.14e-08
R05 N04 N05 1.44e+03
C06 N05 N06 7.29e-08
R06 N05 N06 1.82e+02
C07 N06 N07 5.13e-08
R07 N06 N07 2.18e+01
C08 N07 N08 2.67e-08
R08 N07 N08 3.14e+00
C09 N08 N09 8.39e-09
R09 N08 N09 7.59e-01
C10 N09 N10 1.86e-09
R10 N09 N10 3.17e-01
C11 N10 N11 1.50e-10
L11 N10 N11 3.01e-11
R11 N10 N11 5.04e-01
C12 N11 N12 2.11e-10
L12 N11 N12 6.86e-12
R12 N11 N12 2.01e-01
C13 N12 Port2 2.19e-12
L13 N12 Port2 1.68e-10
R13 N12 Port2 1.48e+01
.ENDS GRM155R72A471KA01
