*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X5R(-55to85[deg])/1.20e-01[uF]/10[V]
* Murata P/N :GRM155R61A124KE19
* Property : C = 1.20e-01[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155R61A124KE19 Port1 Port2
C01 Port1 N01 1.19e-07
R01 Port1 N01 4.17e+08
L02 N01 N02 2.51e-10
R03 N02 N03 2.75e-02
C04 N03 N04 1.06e-05
R04 N03 N04 3.74e+02
C05 N04 N05 1.30e-05
R05 N04 N05 5.16e+01
C06 N05 N06 1.87e-05
R06 N05 N06 4.49e+00
C07 N06 N07 2.08e-05
R07 N06 N07 9.18e-01
C08 N07 N08 1.62e-05
R08 N07 N08 2.06e-01
C09 N08 N09 8.37e-06
R09 N08 N09 3.29e-02
L10 N09 N10 2.04e-11
R10 N09 N10 1.60e-01
L11 N10 N11 7.49e-11
R11 N10 N11 9.06e-02
C12 N11 N12 7.37e-08
L12 N11 N12 5.60e-11
R12 N11 N12 1.95e-02
C13 N12 Port2 5.12e-12
L13 N12 Port2 5.78e-11
R13 N12 Port2 1.11e+01
.ENDS GRM155R61A124KE19
